### PR TITLE
[Merged by Bors] - feat: `ι →₀ R` is a finite `R`-module iff `ι` is finite

### PR DESCRIPTION
**Pull request by YaelDillies**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/Dimension/Finite.lean [hunk 1]
```diff
@@ -546,3 +546,12 @@ theorem finrank_le_one (v : M) (h : ∀ w : M, ∃ c : R, c • v = w) : finrank
   · exact (finrank_eq_one v hn h).le
 
 end RankOne
+
+namespace Module
+variable {ι : Type*}
+
+@[simp] lemma finite_finsupp [StrongRankCondition R] : Module.Finite R (ι →₀ R) ↔ Finite ι where
```
Comment (alreadydone) [inline Mathlib/LinearAlgebra/Dimension/Finite.lean:553]: [Here](https://github.com/leanprover-community/mathlib4/commit/9a14cee38529ee98112f6585212f15b721c84e64) is a generalization to RankCondition. I extracted the proof from #23933 which has a version with Pi instead of Finsupp.

Comment (alreadydone) [reply Mathlib/LinearAlgebra/Dimension/Finite.lean:553]: I think this PR should be merged first, and then I can reuse a lemma in the above-linked commit in #23933.

File: Mathlib/LinearAlgebra/Finsupp/VectorSpace.lean [hunk 2]
```diff
@@ -49,6 +49,12 @@ theorem linearIndependent_single {φ : ι → Type*} {f : ∀ ι, φ ι → M}
       rw [span_le, range_coe]
       apply range_comp_subset_range _ (lsingle i)
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Finsupp/VectorSpace.lean:51]: Is
```lean
theorem linearIndependent_single_iff {φ : ι → Type*} {f : ∀ ι, φ ι → M} :
    (LinearIndependent R fun ix : Σi, φ i => single ix.1 (f ix.1 ix.2)) ↔
      ∀ i, LinearIndependent R (f i) := by
  refine ⟨fun h i => ?_, linearIndependent_single⟩
  replace h := h.comp _ (sigma_mk_injective  (i := i))
  exact .of_comp (Finsupp.lsingle i) h
```
helpful towards generalizing here?

File: Mathlib/LinearAlgebra/Dimension/Finite.lean (hunk 1 above)
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Dimension/Finite.lean:553]: Does this generalize to something like:
```suggestion
@[simp] lemma finite_finsupp [Module.Free R] : Module.Finite R (ι →₀ M) ↔ Module.Finite R M ∧ Finite ι where
```

File: Mathlib/LinearAlgebra/Finsupp/VectorSpace.lean (hunk 2 above)
Comment (YaelDillies) [reply Mathlib/LinearAlgebra/Finsupp/VectorSpace.lean:51]: What's the generalisation you have in mind?

File: Mathlib/LinearAlgebra/Dimension/Finite.lean (hunk 1 above)
Comment (YaelDillies) [reply Mathlib/LinearAlgebra/Dimension/Finite.lean:553]: I was hoping no one would ask 🙈

Comment (alreadydone) [reply Mathlib/LinearAlgebra/Dimension/Finite.lean:553]: Hmm, I believe this is true (no need of freeness or rank conditions!)
```
example [Nontrivial M] : Module.Finite R (ι →₀ M) ↔ Module.Finite R M ∧ Finite ι where
```
The reason is that each generator is supported on finitely many elements of `ι`, so if there are only finitely many generators then `ι` is finite.

Comment (alreadydone) [reply Mathlib/LinearAlgebra/Dimension/Finite.lean:553]: You can forget about this conversation per my previous comment. I'll PR the commit in #23933 instead.

Comment (YaelDillies) [reply Mathlib/LinearAlgebra/Dimension/Finite.lean]: Good point, I'll try removing the strong rank condition entirely tomorrow

Comment (YaelDillies) [reply Mathlib/LinearAlgebra/Dimension/Finite.lean]: Done!

File: Mathlib/LinearAlgebra/Finsupp/Defs.lean [hunk 3]
```diff
@@ -127,6 +127,9 @@ theorem lapply_comp_lsingle_same (a : α) : lapply a ∘ₗ lsingle a = (.id : M
 theorem lapply_comp_lsingle_of_ne (a a' : α) (h : a ≠ a') :
     lapply a ∘ₗ lsingle a' = (0 : M →ₗ[R] M) := by ext; simp [h.symm]
 
+lemma lapply_surjective (a : α) : Function.Surjective (lapply (R := R) (M := M) a) :=
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Finsupp/Defs.lean:130]: I'd argue this should be stated without bundling, as
```suggestion
lemma apply_surjective (a : α) : Function.Surjective (fun f : α →₀ M => f a)
```

File: Mathlib/LinearAlgebra/Finsupp/Defs.lean [hunk 4]
```diff
@@ -127,6 +127,10 @@ theorem lapply_comp_lsingle_same (a : α) : lapply a ∘ₗ lsingle a = (.id : M
 theorem lapply_comp_lsingle_of_ne (a a' : α) (h : a ≠ a') :
     lapply a ∘ₗ lsingle a' = (0 : M →ₗ[R] M) := by ext; simp [h.symm]
 
+include R in
+lemma apply_surjective (a : α) : Function.Surjective fun f : α →₀ M ↦ f a :=
+  LinearMap.surjective_of_comp_eq_id (R := R) _ _ <| lapply_comp_lsingle_same a
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Finsupp/Defs.lean:132]: This doesn't need `R`, see https://github.com/leanprover-community/mathlib4/pull/23997#discussion_r2042055010

File: Mathlib/LinearAlgebra/Finsupp/VectorSpace.lean [hunk 5]
```diff
@@ -49,6 +49,25 @@ theorem linearIndependent_single {φ : ι → Type*} {f : ∀ ι, φ ι → M}
...
+      ∀ i, LinearIndependent R (f i) := by
+  refine ⟨fun h i => ?_, linearIndependent_single _⟩
+  replace h := h.comp _ (sigma_mk_injective  (i := i))
+  exact .of_comp (Finsupp.lsingle i) h
+
+variable (ι R) in
+lemma linearIndependent_single_one : LinearIndependent R fun i : ι ↦ single i (1 : R) := by
+  rw [← linearIndependent_equiv (Equiv.sigmaPUnit ι)]
+  exact linearIndependent_single (f := fun (_ : ι) (_ : Unit) ↦ (1 : R)) <| by
+    simp +contextual [Fintype.linearIndependent_iff]
```
Comment (alreadydone) [inline Mathlib/LinearAlgebra/Finsupp/VectorSpace.lean:63]:
```suggestion
variable (ι R) in
lemma linearIndependent_single_one : LinearIndependent R fun i : ι ↦ single i (1 : R) :=
  Finsupp.basisSingleOne.linearIndependent
```
if you move it down below `Finsupp.basisSingleOne`.

File: Mathlib/LinearAlgebra/Basis/Cardinality.lean [hunk 6]
```diff
@@ -38,36 +47,11 @@ variable [Semiring R] [AddCommMonoid M] [Nontrivial R] [Module R M]
...
-    rw [k]
-    exact mem_top
-  -- giving the desire contradiction.
-  simp only [self_mem_span_image, Finset.mem_coe, bS] at k'
-  exact nm k'
+lemma basis_finite_of_finite_spans [Nontrivial R] {s : Set M} (hs : s.Finite)
+    (hsspan : span R s = ⊤) {ι : Type w} (b : Basis ι R M) : Finite ι := by
+  have := congr(($hsspan).map b.repr)
+  rw [← span_image, Submodule.map_top, LinearEquivClass.range] at this
+  classical exact finite_of_span_finite_eq_top_finsupp (hs.image _) this
```
Comment (alreadydone) [inline Mathlib/LinearAlgebra/Basis/Cardinality.lean:54]:
```suggestion
  exact finite_of_span_finite_eq_top_finsupp (hs.image _) this
```

**Review by alreadydone — APPROVED** [review]
Thanks!
maintainer delegate

File: Mathlib/LinearAlgebra/Basis/Cardinality.lean (hunk 6 above)
Comment (alreadydone) [reply Mathlib/LinearAlgebra/Basis/Cardinality.lean]: done in [a379aac](https://github.com/leanprover-community/mathlib4/pull/23997/commits/a379aac351d685b1f8c401d113bb088b8bce247c)

**Comment by YaelDillies** [comment]
Thanks for the cleanup! Am happy with it

**Comment by alreadydone** [comment]
Additional cleanups in #24209

**Review by riccardobrasca — APPROVED** [review]
@
Thanks!

bors merge
